US07846956B2
9.91 g of {[5-(1-hydroxy-1-methylethyl)-isoxazol-3-yl]methylidene}malononitrile was dissolved in 100 ml of tetrahydrofuran, and 3.78 g of sodium borohydride was then added under ice-cooling. The mixture was stirred for 8 hours under ice-cooling. The reaction mixture was added to 0.5 N hydrochloric acid over 30 minutes and then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 5.38 g of {[5-(1-hydroxy-1-methylethyl)-isoxazol-3-yl]methyl}malononitrile.

reactant | {[5-(1-hydroxy-1-methylethyl)-isoxazol-3-yl]methylidene}malononitrile | 9.91 g | OC(C)(C)C1=CC(=NO1)C=C(C#N)C#N | C10H9N3O2
reactant | sodium borohydride | 3.78 g | [BH4-].[Na+]
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | {[5-(1-hydroxy-1-methylethyl)-isoxazol-3-yl]methyl}malononitrile | 5.38 g | OC(C)(C)C1=CC(=NO1)CC(C#N)C#N | C10H11N3O2
